US06750230B2
3-[(3,5-Dichlorophenyl)sulfanyl]-2,4-pentanedione
3-Chloro-2,4-pentanedione (723 μL, 6.07 mmol) and then sodium iodide (910 mg, 6.07 mmol) were added to a stirred suspension of 3,5-dichlorothiophenol (1.09 g, 6.07 mmol) and potassium carbonate (923 mg, 6.68 mmol) in acetone (30 ml), at room temperature, in a flask equipped with a calcium chloride drying tube. The mixture became yellow, then orange and finally red accompanied by a slight exotherm and was stirred for 23 hours at room temperature. The mixture was diluted with water (20 ml) and concentrated under reduced pressure in a fumehood (Caution: possible residual lachrymator) to remove acetone. The residue was diluted with 2M hydrochloric acid (20 ml) and extracted with dichloromethane (1×40 ml, 2×20 ml). The combined organic phases were washed with brine (20 ml), dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to leave an orange solid (1.66 g). The crude product was purified by flash chromatography on silica gel eluting with pentane:diethyl ether (99:1, by volume) to give the title compound (807 mg) as a yellow solid m.p. 79-81° C.

reactant | 3-Chloro-2,4-pentanedione | 6.07 mmol, 723 μL | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | sodium iodide | 6.07 mmol, 910 mg | [I-].[Na+]
reactant | 3,5-dichlorothiophenol | 6.07 mmol, 1.09 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | potassium carbonate | 6.68 mmol, 923 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 3-[(3,5-Dichlorophenyl)sulfanyl]-2,4-pentanedione | 1.66 g | ClC=1C=C(C=C(C1)Cl)SC(C(C)=O)C(C)=O | C11H10Cl2O2S
